US04652573
A. 2-(2-oxopyrrolidino)ethyl acetoacetate
A mixture of 20 g (0.16 mol) of 1-hydroxyethyl-2-oxo-pyrrolidine, 40 g (0.31 mole) of ethyl acetoacetate and 100 mg of sodium was heated at 140°-150° C. for six hours. Residual ethanol was removed in vacuo and the resultant oil was kugelrohr distilled (200° C./1 mm) to give 1.38 g (40%) of the product. NMR: (CDCl3) δ 2.1 (7H, m), 3.4 (6H, m) 4.1 (2H, t)

reactant | 1-hydroxyethyl-2-oxo-pyrrolidine | 0.16 mol, 20 g | OC(C)N1C(CCC1)=O | C6H11NO2
reactant | ethyl acetoacetate | 0.31 mole, 40 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium | 100 mg | [Na] | Na
product | 2-(2-oxopyrrolidino)ethyl acetoacetate | 1.38 g, 40% | C(CC(=O)C)(=O)OCCN1C(CCC1)=O | C10H15NO4
